US07781431B2
6-cyclohexyl-4-(2-morpholin-4-yl-2-oxoethyl)-5-phenyl-4H-thieno[3,2-b]pyrrole-2-carboxylic acid
Following the procedure described above for 6-cyclohexyl-4-[2-(dimethylamino)-2-oxoethyl]-5-phenyl-4N-thieno[3,2-b]pyrrole-2-carboxylic acid (step 3), treatment of a solution (0.08 M) of [6-cyclohexyl-2-(methoxycarbonyl)-5-phenyl-4H-thieno[3,2-b]pyrrol-4-yl]acetic acid in DMF with morpholine (1.1 eq.), DIEA (3 eq.) and HATU (1.1 eq.) followed by treatment of a solution (0.1 M) of the resulting residue in DCM with BBr3 (1 M solution in DCM, 3 eq.) gave a residue that was purified by RP-HPLC (Conditions: Waters X-TERRA MS C18, 5 micron, 19×150 mm; flow: 17 mL/min; Gradient: A: H2O+0.05% TFA; B: MeCN+0.05% TFA; 60% A isocratic for 4 min, linear to 50% A in 2 min, linear to 40% in 2 min then isocratic for 2 min, linear to 35% A in 2 min isocratic for 1 min then linear to 30% A isocratic for 1 min then linear to 0% A in 3 min) to afford the title compound (43%) as a solid.

reactant | [6-cyclohexyl-2-(methoxycarbonyl)-5-phenyl-4H-thieno[3,2-b]pyrrol-4-yl]acetic acid | 0.08 M | C1(CCCCC1)C=1C2=C(N(C1C1=CC=CC=C1)CC(=O)O)C=C(S2)C(=O)OC | C22H23NO4S
reactant | morpholine | 1.1 eq. | N1CCOCC1 | C4H9NO
reactant | DIEA | 3 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 1.1 eq. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | BBr3 | 1 M, 3 eq. | B(Br)(Br)Br | BBr3
solvent | DMF | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 6-cyclohexyl-4-(2-morpholin-4-yl-2-oxoethyl)-5-phenyl-4H-thieno[3,2-b]pyrrole-2-carboxylic acid | 43% | C1(CCCCC1)C=1C2=C(N(C1C1=CC=CC=C1)CC(=O)N1CCOCC1)C=C(S2)C(=O)O | C25H28N2O4S
